US09216980B2
Step 1: 3-(4-Piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbohydrazide
A solution of 3-(4-piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid methyl ester (425 mg, 1.06 mmol) and hydrazine hydrate (1.29 mL, 26.5 mmol) in ethanol (4.6 mL) was heated under reflux for 1 h under a nitrogen atmosphere. The solution was allowed to cool to ambient temperature and the resulting precipitate was collected by filtration, washed with ethanol, and dried under vacuum to afford a yellow solid (337 mg, 79%). The solid was used without purification.

reactant | 3-(4-piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid methyl ester | 1.06 mmol, 425 mg | COC(=O)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCCCC3 | C24H24N4O2
reactant | hydrazine hydrate | 26.5 mmol, 1.29 mL | O.NN
solvent | ethanol | 4.6 mL | C(C)O | C2H6O
product | 3-(4-Piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbohydrazide | 337 mg, 79% | N1(CCCCC1)CC1=CC=C(C=C1)C1=CC2=C(NC3=C2C=C(N=C3)C(=O)NN)N=C1 | C23H24N6O
